US06150379
A 30% solution of sodium hydride (1.2 g, 32.6 mmol) was washed with pet ether (3×15 mL) and then slurried in THF (30 mL) under nitrogen. The slurry was cooled to 0° C. and 5-methylimidazole-4-carboxaldehyde (3 g, 27.2 mmol) was added in two portions. The mixture was stirred at ambient temperature for 2 hours, cooled to 0° C. and ethyl bromacetate (4.5 mL, 38.1 mmol) was added dropwise. The mixture was stirred at ambient temperature for 40 minutes and partitioned between ethyl acetate and water. The organic layer was isolated, washed with water, dried (MgSO4), filtered and concentrated under reduced pressure. The residue was triturated with pet ether to provide ethyl 4-formyl-5-methylimidazol-1-ylacetate (5.3 g, 27 mmol) as a yellow solid. 1H-NMR (300 Mhz, DMSO-d6): 1.2 (t, 3H), 2.4 (s, 3H), 4.2 (q, 2H), 5.0 (s, 2H), 7.8 (s, 1H), 9.8 (s, 1H).

reactant | sodium hydride | 32.6 mmol, 1.2 g | [H-].[Na+]
reactant | 5-methylimidazole-4-carboxaldehyde | 27.2 mmol, 3 g | CC1=C(N=CN1)C=O | C5H6N2O
reactant | ethyl bromacetate | 38.1 mmol, 4.5 mL | BrCC(=O)OCC | C4H7BrO2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | ethyl 4-formyl-5-methylimidazol-1-ylacetate | 27 mmol, 5.3 g | C(=O)C=1N=CN(C1C)CC(=O)OCC | C9H12N2O3
